US07622583B2
A mixture of 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid (100 mg, 0.24 mmol), 3-amino-pyrazole-1-carboxylic acid tert-butyl ester (51 mg, 0.24 mmol), HATU (160 mg, 0.42 mmol), and TEA (0.13 mL) in DMF (1.5 mL) was stirred at room temperature overnight. It was purified with HPLC to give 3-{[5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]-ethyl-amino}-pyrazole-1-carboxylic acid tert-butyl ester.

reactant | 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid | 0.24 mmol, 100 mg | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7Cl2F3N2O4S
reactant | 3-amino-pyrazole-1-carboxylic acid tert-butyl ester | 0.24 mmol, 51 mg | C(C)(C)(C)OC(=O)N1N=C(C=C1)N | C8H13N3O2
reactant | HATU | 0.42 mmol, 160 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-{[5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]-ethyl-amino}-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=C1)N(CC)C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C23H22Cl2F3N5O5S
